US09212168B2
(b) [(S)-1-((2S,4S)-4-Cyano-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester
To a solution of ((S)-1-{(2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (450 mg, 0.95 mmol), bis(pinacolato)diboron (362 mg, 1.42 mmol), and potassium acetate (186 mg, 1.90 mmol) in dioxane (20 mL) was added Pd(dppf)Cl2—CH2Cl2 (78 mg, 0.095 mmol) and the mixture was degassed with nitrogen and heated at reflux overnight under nitrogen. The cooled mixture was filtered through Celite® and washed with EtOAc. The filtrate was washed with water and brine, dried over Na2SO4, filtered, concentrated, and purified by column chromatography (20-100% EtOAc in petroleum ether) to give the title intermediate (320 mg, 65% yield). (m/z): [M+H]+ calcd for C27H36BN5O5 522.28. found 522. 1H NMR (400 MHz, MeOD): δ(ppm) 7.72 (m, 2H), 7.64 (m, 2H), 7.36 (s, 1H), 5.14 (m, 1H), 4.60 (m, 1H), 4.11 (m, 1H), 3.99 (m, 1H), 3.63 (s, 3H), 3.45 (m, 1H), 2.85 (m, 1H), 2.52 (m, 1H), 2.00 (m, 1H), 1.34 (s, 12H), 0.84 (m, 6H).

reactant | ((S)-1-{(2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.95 mmol, 450 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)C#N)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C21H24BrN5O3
reactant | bis(pinacolato)diboron | 1.42 mmol, 362 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.90 mmol, 186 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.095 mmol, 78 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | [(S)-1-((2S,4S)-4-Cyano-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 320 mg, 65% yield | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)C#N)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H36BN5O5
